US09024032B2
A mixture of 6′-bromo-3-[(4-methoxybenzyl)oxy]-4H-1,2′-bipyridin-4-one (40 mg, 0.1 mmol), 1H-indazol-4-ylboronic acid (32.5 mg, 0.2 mmol), and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichchloromethane complex (4 mg) in THF (2 mL) and 1 M aq. Cs2CO3 (1 mL) was heated under microwave irradiation at 160° C. for 10 min. After cooling to rt, the THF and aq. layers were separated and the aq. solution was extracted with THF (2×2 mL). The combined THF solution was treated with QuadraPure TU resin (Aldrich) for 1 h and filtered. The collected THF solution was concentrated. The concentrated residue was dissolved in TFA-DCM (1:1, 1 mL) and stirred for 1 h. The TFA-DCM solution was concentrated and the residue was purified by LCMS to give 3-Hydroxy-6′-(1H-indazol-4-yl)-4H-1,2′-bipyridin-4-one (TFA salt,). 1H NMR (499 MHz, DMSO): δ 8.60-8.55 (m, 2 H); 8.39 (d, J=2.4 Hz, 1 H); 8.18 (t, J=7.9 Hz, 1 H); 8.10 (d, J=7.7 Hz, 1 H); 7.87 (d, J=8.1 Hz, 1 H); 7.82 (d, J=7.2 Hz, 1 H); 7.70 (d, J=8.3 Hz, 1 H); 7.52 (t, J=7.7 Hz, 1 H); 6.50 (d, J=7.6 Hz, 1 H); LC/MS (M+H)+ 305; HRMS Calcd for (C17H12N4O2+H)+ 305.1033 found 305.1032.

reactant | 6′-bromo-3-[(4-methoxybenzyl)oxy]-4H-1,2′-bipyridin-4-one | 0.1 mmol, 40 mg | BrC1=CC=CC(=N1)N1C=C(C(C=C1)=O)OCC1=CC=C(C=C1)OC | C18H15BrN2O3
reactant | 1H-indazol-4-ylboronic acid | 0.2 mmol, 32.5 mg | N1N=CC2=C(C=CC=C12)B(O)O | C7H7BN2O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | Cs2CO3 | 1 M, 1 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 3-Hydroxy-6′-(1H-indazol-4-yl)-4H-1,2′-bipyridin-4-one | OC1=CN(C=CC1=O)C1=NC(=CC=C1)C1=C2C=NNC2=CC=C1 | C17H12N4O2
